US07291635B2
The title D compound, N-(t-butoxycarbonyl-sulfamoyl)-N-[2-(methoxycarbonyl-methyl)-phenyl]-glycine t-butyl ester (1.87 g, 4.07 mmol) is dissolved in a mixture of TFA (35 mL) and CH2Cl2 (35 mL) and stirred for 30 min. The reaction is concentrated in vacuo, then triturated with diethyl ether to yield N-sulfamoyl-N-[2-(methoxycarbonylmethyl)-phenyl]glycine as a clear glass.

reactant | N-(t-butoxycarbonyl-sulfamoyl)-N-[2-(methoxycarbonyl-methyl)-phenyl]-glycine t-butyl ester | 4.07 mmol, 1.87 g | C(C)(C)(C)OC(CN(C1=C(C=CC=C1)CC(=O)OC)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C20H30N2O8S
solvent | TFA | 35 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | N-sulfamoyl-N-[2-(methoxycarbonylmethyl)-phenyl]glycine | S(N)(=O)(=O)N(CC(=O)O)C1=C(C=CC=C1)CC(=O)OC | C11H14N2O6S
